US05872137
A reaction vessel was charged with 44.1 g of 4-(3,3-dichloro-2-propenyloxy)phenyl benzoate and 400 ml of methanol, to which 33 g of 30% potassium hydroxide was slowly added dropwise under ice cooling. After stirring for 1 hour, the reaction mixture was made weakly acidic by the addition of 10% hydrochloric acid, and extracted twice with 150 ml of diethyl ether under salting out. The combined ether layer was washed with water, dried with anhydrous magnesium sulfate, and concentrated to obtain a crude product. The crude product was subjected to silica gel chromatography, which afforded 26.0 g of 4-(3,3-dichloro-2-propenyloxy)phenol (87% yield).

reactant | 4-(3,3-dichloro-2-propenyloxy)phenyl benzoate | 44.1 g | C(C1=CC=CC=C1)(=O)OC1=CC=C(C=C1)OCC=C(Cl)Cl | C16H12Cl2O3
reactant | potassium hydroxide | 33 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 400 ml | CO | CH4O
product | 4-(3,3-dichloro-2-propenyloxy)phenol | 26.0 g, 87% yield | ClC(=CCOC1=CC=C(C=C1)O)Cl | C9H8Cl2O2
